US08198311B2
(c)(d)(e)(f) 3-(1-Cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoic acid (393 mg, 1 mmol) was dissolved in 20 mL DCM and treated with 130 mL pyridine and 127 uL of cyanuric fluoride and stirred overnight. The reaction was extracted from 1 M HCl with EtOAc×3. The combined organic layers were dried over MgSO4, filtered, concentrated, and then taken up in THF (20 mL), cooled to −78° C. and ammonia gas was bubbled in for 1 min. The reaction was allowed to warm to rt. Quantitative conversion to 3-(1-cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanamide. (M+H)+=390. This compound was dissolved in 15 mL THF and treated with LiAlH4 (4 mL, 4 mmol, 1 M in THF) and stirred for 3 h. The reaction was quenched with EtOAc and then 5 mL 1 M NaOH. After stirring 30 min, the reaction was extracted from brine 4× EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give 3-(1-cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropan-1-amine. (M+H)+=376. This material was dissolved in 3 mL DCM and treated with 0.2 mL trifluoroacetic anhydride. After 3 h, the reaction was rotovapped down and purified by HPLC to give N-(3-(1-cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropyl)-2,2,2-trifluoroacetamide (182 mg, 38% for four steps). (M+H)+=472.

reactant | 3-(1-Cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoic acid | 1 mmol, 393 mg | C1(CCCCCC1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)(C)C)C1=CC=CC=C1 | C25H30N2O2
reactant | pyridine | 130 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 127 uL | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | LiAlH4 | 4 mmol, 1 M, 4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-cycloheptyl-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropan-1-amine | C1(CCCCCC1)N1N=CC2=CC(=CC=C12)C(C(CN)(C)C)C1=CC=CC=C1 | C25H33N3
